US07759369B2
(c). 6-(Hydroxymethyl)-3-methyl-2-pyridinecarbonitrile
Potassium carbonate (82 mg) was added to a solution of (6-cyano-5-methyl-2-pyridinyl)methyl acetate (3.62 g) in methanol (25 ml) and the mixture stirred under argon at ambient temperature for 2 hours. It was concentrated in vacuo to ca. ¼ volume and water (50 ml) added. The mixture was neutralized with 5% acetic acid (1.5 ml) and extracted with dichloromethane (50 ml then 2×25 ml). The combined extracts were washed with brine (25 ml), dried (MgSO4) and concentrated in vacuo. The residue was recrystallised from ether:hexane to afford the title compound (2.26 g, 80%) as a pale buff solid.

reactant | Potassium carbonate | 82 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (6-cyano-5-methyl-2-pyridinyl)methyl acetate | 3.62 g | C(C)(=O)OCC1=NC(=C(C=C1)C)C#N | C10H10N2O2
solvent | methanol | 25 ml | CO | CH4O
product | 6-(Hydroxymethyl)-3-methyl-2-pyridinecarbonitrile | 2.26 g, 80% | OCC1=CC=C(C(=N1)C#N)C | C8H8N2O
